US04621090
A mixture of 1.85 g of N-methyl-N-(4-methyl-2-pyridyl)carbamoyl chloride, 1.44 g of 2-naphthol and 1.38 g of anhydrous potassium carbonate in methylethylketone was refluxed under heating for 48 hours. After the reaction mixture was cooled to room temperature, inorganic salts were removed by filtration and then methylethylketone was removed by distillation under a reduced pressure. The residue was purified by the column chromatography (silica gel, developed with ethyl acetate/benzene=1/9 (V/V) ), to obtain 2.37 g of oily 2-naphthyl N-methyl-N-(4-methyl-2-pyridyl)carbamate (yield 81%, refraction index nD25 1.6191). The elementary analysis of this material was as follows:

reactant | N-methyl-N-(4-methyl-2-pyridyl)carbamoyl chloride | 1.85 g | CN(C(=O)Cl)C1=NC=CC(=C1)C | C8H9ClN2O
reactant | 2-naphthol | 1.44 g | C1=C(C=CC2=CC=CC=C12)O | C10H8O
reactant | potassium carbonate | 1.38 g | C([O-])([O-])=O.[K+].[K+]
solvent | methylethylketone | CC(=O)CC | C4H8O
product | 2-naphthyl N-methyl-N-(4-methyl-2-pyridyl)carbamate | 2.37 g, yield 81% | CN(C(OC1=CC2=CC=CC=C2C=C1)=O)C1=NC=CC(=C1)C | C18H16N2O2
